US04469868
A mixture of 14 g (0.1 mol) of 4-amino-5-cyano-1,3-dimethylpyrazole and 14 g (0.11 mol) of propionic anhydride in 120 ml of ethyl acetate is stirred under reflux 3.5 hours and evaporated in vacuo. The residue is treated with ether and filtered to give 18 g (94%) of N-(5-cyano-1,3-dimethyl-1H-pyrazol-4-yl)propionamide, mp 153°-155° C. from ethanol.

reactant | 4-amino-5-cyano-1,3-dimethylpyrazole | 0.1 mol, 14 g | NC=1C(=NN(C1C#N)C)C | C6H8N4
reactant | propionic anhydride | 0.11 mol, 14 g | C(CC)(=O)OC(CC)=O | C6H10O3
solvent | ethyl acetate | 120 ml | C(C)(=O)OCC | C4H8O2
product | N-(5-cyano-1,3-dimethyl-1H-pyrazol-4-yl)propionamide | 18 g, 94% | C(#N)C1=C(C(=NN1C)C)NC(CC)=O | C9H12N4O
